US08614201B2
(1S,2S)-1-(4-Fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic acid [1-(4′-trifluoromethyl-biphenyl-3-yl)-ethyl]-amide
A mixture of (5)-1-(4′-trifluoromethyl-biphenyl-3-yl)ethylamine hydrochloride (75 mg, 0.25 mmol), (S)-1-(4-fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic acid (68 mg, 0.25 mmol), N-(3-dimethylamniopropyl)-N′-ethylcarbodiimide hydrochloride (71 mg, 0.37 mmol), 1-hydroxybenzotriazole (50 mg, 0.37 mmol) and DMF (2 mL) was added Et3N (0.10 mL, 0.75 mmol). After 12 h, MeOH (0.5 mL) was added to the reaction mixture and resulting solution was purified by preparative reverse-phase HPLC to afford (70 mg, 54%) of a white solid. MS (ESI): mass calcd. for C26H24F4N2O3S, 520.1; m/z found, 521.1 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 7.93-7.87 (m, 2H), 7.79 (d, J=8.0, 2H), 7.73-7.66 (m, 3H), 7.54 (d, J=7.6, 1H), 7.49 (t, J=7.6, 1H), 7.44 (d, J=7.6, 1H), 7.35 (d, J=8.0, 1H), 7.30-7.23 (m, J=8.7, 1H), 5.27-5.11 (m, 1H), 4.11 (dd, J=8.9, 3.1, 1H), 3.71-3.60 (m, 1H), 3.26-3.15 (m, 1H), 2.28-2.17 (m, 1H), 1.91-1.75 (m, 1H), 1.74-1.64 (m, 2H), 1.60 (d, J=7.0, 3H).

reactant | (5)-1-(4′-trifluoromethyl-biphenyl-3-yl)ethylamine hydrochloride | 0.25 mmol, 75 mg | Cl.FC(C1=CC=C(C=C1)C1=CC(=CC=C1)[C@H](C)N)(F)F
reactant | (S)-1-(4-fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic acid | 0.25 mmol, 68 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCC1)C(=O)O | C11H12FNO4S
reactant | 1-hydroxybenzotriazole | 0.37 mmol, 50 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Et3N | 0.75 mmol, 0.10 mL | CCN(CC)CC | C6H15N
solvent | MeOH | 0.5 mL | CO | CH4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (1S,2S)-1-(4-Fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic acid [1-(4′-trifluoromethyl-biphenyl-3-yl)-ethyl]-amide | 70 mg, 54% | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)[C@H](C)NC(=O)[C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)F)(F)F | C26H24F4N2O3S
